US08541421B2
N-(2-Cyano-3-methylphenyl)sulfamide
A solution of 2-amino-6-methylbenzonitrile (1.32 g, 10 mmol) and sulfamide (4.81 g, 50 mmol) in dry 1,4-dioxane (50 mL) was refluxed under nitrogen for 3 days. After the reaction mixture was cooled down to room temperature, the precipitate was filtered and washed with dioxane. The filtrate was concentrated under reduced pressure, and the residue was purified by chromatography on silica gel eluting with EtOAc/hexanes (3:7) to give the title compound as a pale-white solid. 1H NMR (400 MHz, DMSO-d6) δ2.44 (s, 3H), 7.19-7.21 (m, 3H), 7.39-7.41 (d, J=8.4 Hz, 1H), 7.53 (t, J=8.0 Hz, 1H), 9.41 (s, 1H).

reactant | 2-amino-6-methylbenzonitrile | 10 mmol, 1.32 g | NC1=C(C#N)C(=CC=C1)C | C8H8N2
reactant | sulfamide | 50 mmol, 4.81 g | S(=O)(=O)(N)N | H4N2O2S
solvent | 1,4-dioxane | 50 mL | O1CCOCC1 | C4H8O2
product | N-(2-Cyano-3-methylphenyl)sulfamide | C(#N)C1=C(C=CC=C1C)NS(=O)(=O)N | C8H9N3O2S
